US06303620B1
To a solution of (1-(2-(4-benzyl-4-(N′,N′-dimethylhydrazinocarbonyl)piperidine-1-yl)-1-(1H-indol-3-ylmethyl)-2-oxoethylcarbamoyl)-1-methylethyl)carbamic acid tert-butyl ester (0.29 g, 0.46 mmol) in methylene chloride (3 ml) at 0° C. was added trifluoroacetic acid (3 ml) and the mixture was stirred for 30 min. The mixture was quenched with ethanol (20 ml), concentrated in vacuo and stripped three times with methylene chloride to give 0.25 g of 2-amino-N-[(1R)-2-[4-benzyl-4-(N′,N′-dimethylhydrazinocarbonyl)piperidin-1-yl]-1-((1H-indol-3-yl)methyl)-2-oxoethyl]-2-methylpropionamide as a white amorphous powder.

reactant | (1-(2-(4-benzyl-4-(N′,N′-dimethylhydrazinocarbonyl)piperidine-1-yl)-1-(1H-indol-3-ylmethyl)-2-oxoethylcarbamoyl)-1-methylethyl)carbamic acid tert-butyl ester | 0.46 mmol, 0.29 g | C(C)(C)(C)OC(NC(C)(C)C(NC(C(=O)N1CCC(CC1)(C(=O)NN(C)C)CC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O)=O | C35H48N6O5
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-amino-N-[(1R)-2-[4-benzyl-4-(N′,N′-dimethylhydrazinocarbonyl)piperidin-1-yl]-1-((1H-indol-3-yl)methyl)-2-oxoethyl]-2-methylpropionamide | 0.25 g | NC(C(=O)N[C@@H](C(=O)N1CCC(CC1)(C(=O)NN(C)C)CC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)(C)C | C30H40N6O3
